US04171318
A mixture of 6.0 g. (12.46 mmol) of 6-chloro-4-methoxy-2,3-dimethylbenzyl triphenylphosphonium chloride and 2.71 g. of ethyl (E,Z,E)-4-fluoro-3,7-dimethyl-8-oxo-2,4,6-octatrienoate in 15 ml. of 1,2-butylene oxide was heated at 110° C. in a sealed tube for 60 hours. The resulting mixture was worked up with ether in the usual manner to give 13.53 g. of crude product. This material was chromatographed on 300 g. of silica gel. Elution with 1:4 ether-petroleum ether yielded 4.65 g. of yellow crystals. Recrystallization of this material from methylene chloride-petroleum ether afforded 1.67 g. (35% yield) of pure ethyl (E,Z,E,E)-9-(6-chloro-4-methoxy-2,3-dimethylphenyl)-4-fluoro-3,7-dimethyl-2,4,6,8-nonatetraenoate as yellow crystals, mp. 126°-128° C.

reactant | 6-chloro-4-methoxy-2,3-dimethylbenzyl triphenylphosphonium chloride | 12.46 mmol | [Cl-].ClC1=CC(=C(C(=C1C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)C)OC
reactant | ethyl (E,Z,E)-4-fluoro-3,7-dimethyl-8-oxo-2,4,6-octatrienoate | F/C(/C(=C/C(=O)OCC)/C)=C\C=C(\C=O)/C | C12H15FO3
reactant | 1,2-butylene oxide | C1C(CC)O1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | ethyl (E,Z,E,E)-9-(6-chloro-4-methoxy-2,3-dimethylphenyl)-4-fluoro-3,7-dimethyl-2,4,6,8-nonatetraenoate | 35% yield | ClC1=CC(=C(C(=C1/C=C/C(=C/C=C(/C(=C/C(=O)OCC)/C)\F)/C)C)C)OC | C22H26ClFO3
